US08232294B2
Step 3) 4-(2-fluoro-4-nitrophenoxy)-6,7-dimethoxyquinoline
A solution of 6,7-dimethoxyquinolin-4-ol (50 g, 0.244 mol) and Cs2CO3 (159 g, 0.488 mol) in CH3CN (300 mL)/DMF (300 mL) was stirred at room temperature for 30 min. 1,2-Difluoro-4-nitrobenzene (42.7 g, 0.268 mol) was then added dropwise. After stirring at rt for 3.5 h, the reaction solution was concentrated in vacuo. Ice (500 mL) was added to the residual suspension and the mixture was stirred overnight for precipitation. The solid was collected by filtration and further purified by a silica gel column chromatography (EtOAc) to give the title compound as a pale yellow powder (43.1 g, 51.2%).

reactant | 6,7-dimethoxyquinolin-4-ol | 0.244 mol, 50 g | COC=1C=C2C(=CC=NC2=CC1OC)O | C11H11NO3
reactant | Cs2CO3 | 0.488 mol, 159 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
reactant | 1,2-Difluoro-4-nitrobenzene | 0.268 mol, 42.7 g | FC1=C(C=C(C=C1)[N+](=O)[O-])F | C6H3F2NO2
solvent | CH3CN | 300 mL | CC#N | C2H3N
product | 4-(2-fluoro-4-nitrophenoxy)-6,7-dimethoxyquinoline | 43.1 g, 51.2% | FC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC(=C1)[N+](=O)[O-] | C17H13FN2O5
